US08497381B2
Step 1: [6-Methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (4S,5R)-3-(2-bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester.

reactant | (4S,5R)-3-(2-bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=C(CN2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)C=C(C=C1)C(F)(F)F | C18H15BrF3NO2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO5
product | [6-Methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C28H26F3NO5
